US08017604B2
Step 2: 6-Bromo-2-phenyl-imidazo[1,2-a]pyridine-7-carboxylic acid
NaOH (1N, 61 ml) was added to a suspension of 6-bromo-2-phenyl-imidazo[1,2-a]pyridine-7-carboxylic acid methyl ester (10.11 g, 31 mmol) in a mixture of water (30 ml) and ethanol (60 ml), and the mixture was heated to reflux (2 h). The mixture was cooled (0° C.) and HCl (conc., ˜10 ml) was slowly added. The dark brown suspension was filtered, washed with a small amount of ethanol, and dried under vacuum. The obtained title compound (9.47 g, 98%) was used in the next step without further purification. MS (m/e)=318.9 [M+H+].

reactant | NaOH | 1N, 61 ml | [OH-].[Na+]
reactant | 6-bromo-2-phenyl-imidazo[1,2-a]pyridine-7-carboxylic acid methyl ester | 31 mmol, 10.11 g | COC(=O)C1=CC=2N(C=C1Br)C=C(N2)C2=CC=CC=C2 | C15H11BrN2O2
reactant | HCl | ˜10 ml | Cl | ClH
solvent | water | 30 ml | O | H2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 6-Bromo-2-phenyl-imidazo[1,2-a]pyridine-7-carboxylic acid | 9.47 g, 98% | BrC=1C(=CC=2N(C1)C=C(N2)C2=CC=CC=C2)C(=O)O | C14H9BrN2O2
